### PR TITLE
[Merged by Bors] - feat: more API for Function.IsPartialInv

### PR DESCRIPTION
**Pull request by eric-wieser**
This also renames some lemmas to enable dot notation.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Set/Finite/Basic.lean [hunk 1]
```diff
@@ -318,12 +318,7 @@ a `Fintype` instance, then `s` has a `Fintype` structure as well. -/
 def fintypeOfFintypeImage (s : Set α) {f : α → β} {g} (I : IsPartialInv f g) [Fintype (f '' s)] :
     Fintype s :=
   Fintype.ofFinset ⟨_, (f '' s).toFinset.2.filterMap g <| injective_of_isPartialInv_right I⟩
-    fun a => by
-    suffices (∃ b x, f x = b ∧ g b = some a ∧ x ∈ s) ↔ a ∈ s by
-      simpa [exists_and_left.symm, and_comm, and_left_comm, and_assoc]
-    rw [exists_swap]
-    suffices (∃ x, x ∈ s ∧ g (f x) = some a) ↔ a ∈ s by simpa [and_comm, and_left_comm, and_assoc]
-    simp [I _, (injective_of_isPartialInv I).eq_iff]
+    fun a => by simp [I.eq]
```
Comment (Komyyy) [inline Mathlib/Data/Set/Finite/Basic.lean]:
```suggestion
    (by simp [I.eq])
```

File: Mathlib/Logic/Encodable/Basic.lean [hunk 2]
```diff
@@ -218,13 +220,7 @@ def equivRangeEncode (α : Type*) [Encodable α] : α ≃ Set.range (@encode α
...
       (show isSome (decode₂ α n.1) by obtain ⟨x, hx⟩ := n.2; rw [← hx, encodek₂]; exact rfl)
   left_inv a := by dsimp; rw [← Option.some_inj, Option.some_get, encodek₂]
-  right_inv := fun ⟨n, x, hx⟩ => by
-    apply Subtype.ext
-    dsimp
-    conv =>
-      rhs
-      rw [← hx]
-    rw [encode_injective.eq_iff, ← Option.some_inj, Option.some_get, ← hx, encodek₂]
+  right_inv := fun ⟨n, x, hx⟩ => Subtype.ext <| decode₂_isPartialInv.get_eq _ _
```
Comment (Komyyy) [inline Mathlib/Logic/Encodable/Basic.lean]:
```suggestion
  right_inv _ := Subtype.ext <| decode₂_isPartialInv.get_eq _ _
```

File: Mathlib/Logic/Function/Basic.lean [hunk 3]
```diff
@@ -277,17 +277,35 @@ theorem not_surjective_Type {α : Type u} (f : α → Type max u v) : ¬Surjecti
...
   ∀ x y, g y = some x ↔ f x = y
 
-theorem isPartialInv_left {α β} {f : α → β} {g} (H : IsPartialInv f g) (x) : g (f x) = some x :=
+theorem IsPartialInv.eq {α β} {f : α → β} {g} (H : IsPartialInv f g) (x) : g (f x) = some x :=
   (H _ _).2 rfl
 
-theorem injective_of_isPartialInv {α β} {f : α → β} {g} (H : IsPartialInv f g) :
+theorem IsPartialInv.get_eq {α β} {f : α → β} {g} (H : IsPartialInv f g) (x) (h : g x |>.isSome) :
+    f (g x |>.get h) = x :=
+  match hg : g x, h with | some _, _ => (H _ _).1 hg
```
Comment (Komyyy) [inline Mathlib/Logic/Function/Basic.lean]: optional:
```suggestion
  (H _ _).1 (Option.eq_some_of_isSome h)
```

File: Mathlib/Logic/Function/Basic.lean [hunk 4]
```diff
@@ -277,17 +277,35 @@ theorem not_surjective_Type {α : Type u} (f : α → Type max u v) : ¬Surjecti
...
+
+theorem IsPartialInv.surjective_getD {α β} {f : α → β} {g} (H : IsPartialInv f g) (x) :
+    Function.Surjective (g · |>.getD x) :=
+  fun y => ⟨f y, by cases g (f y) <;> simp [H.eq]⟩
```
Comment (Komyyy) [inline Mathlib/Logic/Function/Basic.lean]:
```suggestion
  fun y => ⟨f y, by simp [H.eq]⟩
```

File: Mathlib/Logic/Function/Basic.lean [hunk 5]
```diff
@@ -277,17 +277,35 @@ theorem not_surjective_Type {α : Type u} (f : α → Type max u v) : ¬Surjecti
...
+
+@[deprecated (since := "2026-03-11")] alias isPartialInv_left := IsPartialInv.eq
+
+theorem IsPartialInv.injective {α β} {f : α → β} {g} (H : IsPartialInv f g) :
     Injective f := fun _ _ h ↦
   Option.some.inj <| ((H _ _).2 h).symm.trans ((H _ _).2 rfl)
 
+@[deprecated (since := "2026-03-11")] alias injective_of_isPartialInv := IsPartialInv.injective
+
 theorem injective_of_isPartialInv_right {α β} {f : α → β} {g} (H : IsPartialInv f g) (x y b)
```
Comment (Komyyy) [inline Mathlib/Logic/Function/Basic.lean:299]: This name also should be changed:
```suggestion
theorem IsPartialInv.inj_of_mem {α β} {f : α → β} {g} (H : IsPartialInv f g) (x y b)

@[deprecated (since := "2026-03-13")]
alias injective_of_isPartialInv_right := IsPartialInv.inj_of_mem
```

File: Mathlib/Logic/Function/Basic.lean [hunk 6]
```diff
@@ -367,8 +385,10 @@ theorem partialInv_of_injective {α β} {f : α → β} (I : Injective f) : IsPa
   fun e => e ▸ have h : ∃ a', f a' = f a := ⟨_, rfl⟩
               (dif_pos h).trans (congr_arg _ (I <| Classical.choose_spec h))⟩
 
+@[deprecated (since := "2026-03-11")] alias partialInv_of_injective := Injective.isPartialInv
+
 theorem partialInv_left {α β} {f : α → β} (I : Injective f) : ∀ x, partialInv f (f x) = some x :=
-  isPartialInv_left (partialInv_of_injective I)
+  I.isPartialInv.eq
```
Comment (Komyyy) [inline Mathlib/Logic/Function/Basic.lean:392]: This name also should be changed:
```suggestion
theorem Injective.partialInv_eq {α β} {f : α → β} (I : Injective f) :
    ∀ x, partialInv f (f x) = some x :=
  I.isPartialInv.eq

@[deprecated (since := "2026-03-13")] alias partialInv_left := Injective.partialInv_eq
```

**Review by Komyyy — CHANGES_REQUESTED** [review]
Thank you for your contribution!

File: Mathlib/Logic/Function/Basic.lean (hunk 6 above)
Comment (eric-wieser) [reply Mathlib/Logic/Function/Basic.lean:392]: Your suggested name doesnt match `Function.surjInv_eq`, so I'd prefer to defer renaming it to another time. We don't have to fix all the existing names in one PR.

File: Mathlib/Logic/Function/Basic.lean (hunk 5 above)
Comment (eric-wieser) [reply Mathlib/Logic/Function/Basic.lean:299]: I'm not super happy with this statement in the first place, so would prefer to declare renaming it out of scope for this PR.

Comment (Komyyy) [reply Mathlib/Logic/Function/Basic.lean:299]: OK, I see.

File: Mathlib/Logic/Function/Basic.lean (hunk 6 above)
Comment (Komyyy) [reply Mathlib/Logic/Function/Basic.lean:392]: Oh, also `Function.Injective.partialInv_eq` doesn't match [`Function.invFun_eq`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Logic/Function/Basic.html#Function.invFun_eq).

I think many other lemmas in `Mathlib.Logic.Function.Basic` should be reviewed, but that would be substantial work, so it should be done in another PR.

We will leave this lemma name as is.

**Review by Komyyy — APPROVED** [review]
Thank you!

maintainer merge
